US07691855B2
To the solution of 27.83 g (0.2 Mol) of 4-nitro-phenol (Fluka 73560) in 420 mL of acetone is added 55.28 g (0.4 Mol) of potassium carbonate, 143.42 g (1 Mol) of 1-bromo-2-chloro-ethane, 0.55 g (0.0033 Mol) of potassium iodide and 0.28 g (0.00087 Mol) of tetrabutyl-ammonium bromide (Fluka 86860). The resulting suspension is refluxed for 67 h. After removing the solvent under reduced pressure, the residue is taken up into ethyl acetate and washed with water. The combined organic layers are dried (Na2SO4), filtered and concentrated under reduced pressure. After trituration of the residue with ligroin, the crystals are filtered off to obtain 1-(2-chloro-ethoxy)-4-nitro-benzene.

reactant | 4-nitro-phenol | 0.2 Mol, 27.83 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 0.4 Mol, 55.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloro-ethane | 1 Mol, 143.42 g | BrCCCl | C2H4BrCl
reactant | potassium iodide | 0.0033 Mol, 0.55 g | [I-].[K+]
solvent | acetone | 420 mL | CC(=O)C | C3H6O
catalyst | tetrabutyl-ammonium bromide | 0.00087 Mol, 0.28 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(2-chloro-ethoxy)-4-nitro-benzene | ClCCOC1=CC=C(C=C1)[N+](=O)[O-] | C8H8ClNO3
